US04666510
Acetyl chloride (0.39 g; 4.9 mmole) in dichloromethane (5 ml) was added to a solution of 5-(2,6-dimethyl-4-hydroxyphenyl)-3-hydroxy-2-propionylcyclohex-2-en-1-one (1.29 g; 4.5 mmole) and pyridine (0.39 g; 4.9 mmole) in dichloromethane (100 ml) at room temperature. The mixture was stirred for 24 hours, then poured into water and extracted with dichloromethane. The organic extract was washed with water, dried over anhydrous sodium sulfate and evaporated under reduced pressure to give an oily residue. Purification by column chromatography over silica gel (eluant dichloromethane) gave 5-(4-acetyloxy-2,6-dimethylphenyl)-3-hydroxy-2-propionylcyclohex-2-en-1-one (0.63 g; 42.0% ) as a pale cream solid.

reactant | Acetyl chloride | 4.9 mmole, 0.39 g | C(C)(=O)Cl | C2H3ClO
reactant | 5-(2,6-dimethyl-4-hydroxyphenyl)-3-hydroxy-2-propionylcyclohex-2-en-1-one | 4.5 mmole, 1.29 g | CC1=C(C(=CC(=C1)O)C)C1CC(=C(C(C1)=O)C(CC)=O)O | C17H20O4
reactant | pyridine | 4.9 mmole, 0.39 g | N1=CC=CC=C1 | C5H5N
reactant | water | O | H2O
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
product | 5-(4-acetyloxy-2,6-dimethylphenyl)-3-hydroxy-2-propionylcyclohex-2-en-1-one | 0.63 g, 42.0% | C(C)(=O)OC1=CC(=C(C(=C1)C)C1CC(=C(C(C1)=O)C(CC)=O)O)C | C19H22O5
